US06992087B2
Preparation of N-[(1R,2S)-2-(cyclopropylmethoxy)-2,3-dihydro-1H-inden-1-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (bromomethyl)cyclopropane and making non-critical variations provided the title compound as a yellow amorphous solid. IR (liq.) 3442, 2971, 2935, 2874, 1565, 1552, 1498, 1471, 1393, 1206, 1184, 1101, 1077, 1021, 740 cm−1; OAMS supporting ions at: ESI+ 481.8; MS (EI) m/z 481 (M+); HRMS (FAB) calcd for C27H29CL2N3O +H1 482.1766, found 482.1775. [α]25D=−65 (c 0.73, methylene chloride); Anal. Calcd for C27H29Cl2N3O: C, 67.22; H, 6.06; N, 8.71. Found: C, 67.15; H, 6.08; N, 8.66.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | N-[(1R,2S)-2-(cyclopropylmethoxy)-2,3-dihydro-1H-inden-1-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine | C1(CC1)CO[C@@H]1[C@@H](C2=CC=CC=C2C1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C27H29Cl2N3O
